US08623889B2
Step 1: N-(7-(3-fluoro-2-formyl-6-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of N-[7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-isoquinolyl]cyclopropanecarboxamide (100 mg, 0.30 mmol), 2-bromo-6-fluoro-3-methyl-benzaldehyde (77 mg; 0.35 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (21 mg, 0.03 mmol) and saturated aqueous sodium carbonate solution (0.1 mL) in acetonitrile (1 mL) was heated under microwave irradiation (Biotage) at 120° C. for 30 minutes. The reaction mixture was diluted with ethyl acetate (30 mL) and washed with water (15 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by flash chromatography (4 g, Silica, 0-60% ethyl acetate in heptane). Desired fractions were combined and evaporated in vacuo to afford the title compound as light brown solid (100 mg, 97%), which was used in the next step without further purification.

reactant | N-[7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-isoquinolyl]cyclopropanecarboxamide | 0.30 mmol, 100 mg | CC1(OB(OC1(C)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C19H23BN2O3
reactant | 2-bromo-6-fluoro-3-methyl-benzaldehyde | 0.35 mmol, 77 mg | BrC1=C(C=O)C(=CC=C1C)F | C8H6BrFO
reactant | sodium carbonate | 0.1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.03 mmol, 21 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | N-(7-(3-fluoro-2-formyl-6-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 100 mg, 97% | FC=1C(=C(C(=CC1)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C=O | C21H17FN2O2
